US05780465
37. Preparation of 5-(2,2-Dimethylindan-1-yl)-4-(N-methylmethanesulfonylamino)pyrimidine (Cpd. 226)
N-Methylmethanesulfonamide (1.9 g) and then 1.2 g (17 mmol) of 5-(2,2-dimethylindan-1-yl)-4-methanesulfonylpyrimidine were added to a slurry of 0.40 g (17 mmol) of sodium hydride in 50 mL of dry N,N-dimethylformamide with stirring and the resulting mixture was heated at 80° C. for 1 hour. The mixture was then cooled and partitioned between ether and water. The organic phase was recovered, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography on silica gel and 0.57 g of the title compound was obtained as a tan solid melting at 107°-109° C.

reactant | N-Methylmethanesulfonamide | 1.9 g | CNS(=O)(=O)C | C2H7NO2S
reactant | 5-(2,2-dimethylindan-1-yl)-4-methanesulfonylpyrimidine | 17 mmol, 1.2 g | CC1(C(C2=CC=CC=C2C1)C=1C(=NC=NC1)S(=O)(=O)C)C | C16H18N2O2S
reactant | sodium hydride | 17 mmol, 0.40 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 5-(2,2-Dimethylindan-1-yl)-4-(N-methylmethanesulfonylamino)pyrimidine | 0.57 g | CC1(C(C2=CC=CC=C2C1)C=1C(=NC=NC1)N(C)S(=O)(=O)C)C | C17H21N3O2S
